US08049006B2
Tert-butyl 2-fluoro-5-(1-nitropropyl)benzoate (Compound S75)
To tert-butyl 5-bromo-2-fluorobenzoate (1.26 g) in dimethoxyethane (22.9 ml) solution, tris(dibenzylideneacetone)dipalladium (0.10 g), 2-(di-tert-butylphosphino)-2′-methylbiphenyl (0.14 g), tripotassium phosphate (1.07 g), and 1-nitropropane (0.82 ml) were added, the mixture was stirred at room temperature for 1 minute, then the mixture was stirred under heating and reflux for 15 hours. The insoluble compound was filtered out, then the filtrate was concentrated. The residue was purified by silica gel column chromatography (hexane/ethyl acetate, ethyl acetate: 0 to 10%) to obtain the title compound (392 mg).

reactant | tert-butyl 5-bromo-2-fluorobenzoate | 1.26 g | BrC=1C=CC(=C(C(=O)OC(C)(C)C)C1)F | C11H12BrFO2
reactant | 2-(di-tert-butylphosphino)-2′-methylbiphenyl | 0.14 g | C(C)(C)(C)P(C1=C(C=CC=C1)C1=C(C=CC=C1)C)C(C)(C)C | C21H29P
reactant | tripotassium phosphate | 1.07 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 1-nitropropane | 0.82 ml | [N+](=O)([O-])CCC | C3H7NO2
solvent | dimethoxyethane | 22.9 ml | C(OC)COC | C4H10O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.10 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | Tert-butyl 2-fluoro-5-(1-nitropropyl)benzoate | 392 mg | FC1=C(C(=O)OC(C)(C)C)C=C(C=C1)C(CC)[N+](=O)[O-] | C14H18FNO4
